US04380641
2-ethyl-4-carbethoxy-5-aminooxazole
To 9.9 g. 2-ethyl-4-carbethoxy-5-aminooxazole hydrochloride was added 90 ml. dichloromethane and 30 ml. saturated sodium bicarbonate solution. Sodium carbonate was then added to the solution until the pH was approximately 9. The aqueous layer was extracted with CH2Cl2, dried over anhydrous magnesium sulfate, and concentrated. The solid was recrystallized from ethanol to yield 5.8 g. The structure was verified by NMR.

reactant | 2-ethyl-4-carbethoxy-5-aminooxazole hydrochloride | Cl.C(C)C=1OC(=C(N1)C(=O)OCC)N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-ethyl-4-carbethoxy-5-aminooxazole | C(C)C=1OC(=C(N1)C(=O)OCC)N | C8H12N2O3
